US09102692B2
[5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1-benzenesulfonyl-6-morpholin-4-ylmethyl-1H-indol-2-yl)-methanone (132 mg, 0.22 mmol) was dissolved in tetrahydrofuran (THF) (1.0 ml), and then a tetrahydrofuran (THF) solution of 1 M tetrabutylammonium fluoride (0.46 ml, 0.46 mmol) was added thereto. The mixture was heated at 65° C. with stirring for 22 hours. The reaction mixture was then cooled to room temperature, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane/methanol=100/10) to give [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(6-morpholin-4-ylmethyl-1H-indol-2-yl)-methanone as a yellow solid (74 mg, 75%).

reactant | [5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1-benzenesulfonyl-6-morpholin-4-ylmethyl-1H-indol-2-yl)-methanone | 0.22 mmol, 132 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)CN1CCOCC1)S(=O)(=O)C1=CC=CC=C1 | C31H29N7O4S
reactant | tetrabutylammonium fluoride | 0.46 mmol, 1 M, 0.46 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(6-morpholin-4-ylmethyl-1H-indol-2-yl)-methanone | 74 mg, 75% | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1NC2=CC(=CC=C2C1)CN1CCOCC1 | C25H25N7O2
